US07071175B1
2-Acetylamino-isonicotinic acid (10.8 g, 60.0 mmol) was suspended in ethanol (150 mL) and BF3OEt2 (22 mL, 138 mmol) was added. The mixture was refluxed overnight, and after cooling to room temperature 10% NaHCO3 (250 mL) was added. The product was extracted with chloroform and the combined organic extracts were washed with water and dried. Filtering and concentration afforded 2-amino-isonicotinic acid ethyl ester (7.46 g, 79%) as pale yellow crystals.

reactant | 2-Acetylamino-isonicotinic acid | 60.0 mmol, 10.8 g | C(C)(=O)NC=1C=C(C(=O)O)C=CN1 | C8H8N2O3
reactant | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | 2-amino-isonicotinic acid ethyl ester | 7.46 g, 79% | C(C)OC(C1=CC(=NC=C1)N)=O | C8H10N2O2
